US08492372B2
METHYL 4-BROMO-5-FLUORO-2-HYDROXYBENZOATE
Preparation according to Preparation 7, using boron tribromide (1.0 M, 25.0 ml, 25.2 mmol) in DCM (25 ml) and methyl 4-bromo-5-fluoro-2-methoxybenzoate (2.2 g, 8.4 mmol) in DCM (15 ml). Yield: 2.1 g. MS m/z (rel. intensity, 70 eV) 250 (M+, 40), 248 (M+, 41), 218 (99), 216 (bp), 188 (41), 186 (41), 81 (39).

reactant | boron tribromide | 25.2 mmol, 1.0 M, 25.0 ml | B(Br)(Br)Br | BBr3
reactant | methyl 4-bromo-5-fluoro-2-methoxybenzoate | 8.4 mmol, 2.2 g | BrC1=CC(=C(C(=O)OC)C=C1F)OC | C9H8BrFO3
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | METHYL 4-BROMO-5-FLUORO-2-HYDROXYBENZOATE | BrC1=CC(=C(C(=O)OC)C=C1F)O | C8H6BrFO3
